US07511065B2
Trifluoromethanesulfonic Acid 7-bromo-quinolin-4-yl Ester
7-Bromo-quinolin-4-ol (Ref. 2)(0.8 g, 3.6 mmol) is dissolved in 10 mL of pyridine at 0° C. under nitrogen. Trifluoromethanesulfonic anhydride (1.3 mL, 4.3 mmol) is added dropwise to the reaction mixture while maintaining the temperature at 0° C. After the addition is complete, the reaction mixture is stirred at 0° C. for 2 h, warmed to room temperature and evaporated to a slurry. The crude mixture is diluted with 20 mL of water and 50 mL of EtOAc. The EtOAc layer is separated, extracted with saturated brine, dried over anhydrous Na2SO4, filtered, and evaporated to a solid mass. The crude product is purified by MPLC on silica gel (30% EtOAc/Hexanes) to yield the title compound, 0.82 g (63%), as white solid. MS ES+ m/e 355.9, 357.9 (M+1).

reactant | 7-Bromo-quinolin-4-ol | 3.6 mmol, 0.8 g | BrC1=CC=C2C(=CC=NC2=C1)O | C9H6BrNO
reactant | Trifluoromethanesulfonic anhydride | 4.3 mmol, 1.3 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | Trifluoromethanesulfonic Acid 7-bromo-quinolin-4-yl Ester | BrC1=CC=C2C(=CC=NC2=C1)OS(=O)(=O)C(F)(F)F | C10H5BrF3NO3S
